US04410520
A solution of 3-(1-carboxy-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (6.0 g), sodium bicarbonate (4.0 g), and ethyl iodide (11.6 g) in dimethylacetamide (200 ml) was stirred at room temperature under nitrogen for 72 hours. The reaction mixture was filtered and evaporated under high vacuum. Water (250 ml) was added, and the resulting solution extracted with dichloromethane (2×400 ml). The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure to give 3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one as a mixture of isomers. NMR(CDCl3)δ 9.22(s, 1H), 4.10(2 superimposed quartets, 2H), 1.13(2 superimposed triplets, 3H).

reactant | 3-(1-carboxy-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 6.0 g | C(=O)(O)C(CCC1=CC=CC=C1)NC1C(NC2=C(CC1)C=CC=C2)=O | C20H22N2O3
reactant | sodium bicarbonate | 4.0 g | C([O-])(O)=O.[Na+]
reactant | ethyl iodide | 11.6 g | C(C)I | C2H5I
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
product | 3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(C)OC(=O)C(CCC1=CC=CC=C1)NC1C(NC2=C(CC1)C=CC=C2)=O | C22H26N2O3
